US08633173B2
4-{4-[8-(4-Fluoro-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-ylamino]-phenyl}-piperidine-1-carboxylic acid tert-butyl ester was prepared from 2-chloro-8-(4-fluoro-phenyl)-[1,2,4]-triazolo[1,5-a]pyridine (0.190 g, 0.767 mmol) and 4-(4-amino-phenyl)-piperidine-1-carboxylic acid tert-butyl ester (0.254 g, 0.921 mmol) in a manner analogous to Example 311a and 311b to give product. MP=88-91° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.65 (s, 1H), 8.79 (d, 1H), 8.22 (m, 2H), 7.82 (d, 1H), 7.60 (d, 2H), 7.35 (m, 2H), 7.15 (d, 2H), 7.10 (m, 1H), 4.05 (m, 2H), 2.80 (m, 2H), 2.60 (m, 1H), 1.75 (m, 2H), 1.45 (m, 2H), 1.41 (s, 9H): MS=488 (MH)+.

reactant | 2-chloro-8-(4-fluoro-phenyl)-[1,2,4]-triazolo[1,5-a]pyridine | 0.767 mmol, 0.190 g | ClC1=NN2C(C(=CC=C2)C2=CC=C(C=C2)F)=N1 | C12H7ClFN3
reactant | 4-(4-amino-phenyl)-piperidine-1-carboxylic acid tert-butyl ester | 0.921 mmol, 0.254 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)N | C16H24N2O2
product | 4-{4-[8-(4-Fluoro-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-ylamino]-phenyl}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)NC1=NN2C(C(=CC=C2)C2=CC=C(C=C2)F)=N1 | C28H30FN5O2
